US08211908B2
To a suspension of 0.21 g of 4-(2-(4-aminopiperidin-1-yl)ethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one hydrochloride in 5 mL of methanol, 0.22 g of a 28% sodium methoxide/methanol solution, 0.11 g of 3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)thiazine-6-carbaldehyde, 32 μL of acetic acid and 70 mg of sodium cyanoborohydride were added, and the mixture was stirred at room temperature for 3 hours. Chloroform and a saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=10:1. Diethyl ether and hexane were added to the resultant residue, and the solid was filtered off to obtain 0.13 g of 6-(((1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-pyrido(3,2-b)(1,4)thiazin-3(4H)-one as a light brown solid.

reactant | 4-(2-(4-aminopiperidin-1-yl)ethyl)-6-methoxypyrido(2,3-b)pyrazin-3(4H)-one hydrochloride | 0.21 g | Cl.NC1CCN(CC1)CCN1C2=C(N=CC1=O)C=CC(=N2)OC
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)thiazine-6-carbaldehyde | 0.11 g | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | sodium cyanoborohydride | 70 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 32 μL | C(C)(=O)O | C2H4O2
product | 6-(((1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-pyrido(3,2-b)(1,4)thiazin-3(4H)-one | 0.13 g | COC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)NCC=2C=CC=3SCC(NC3N2)=O)N1 | C23H27N7O3S
